US05604064
Into a 100-ml flask were introduced 10.77 g of N,N'-diphenylbenzidine, 23.0 g of ethyl 3-iododihydrocinnamate, 11.61 g of potassium carbonate, 1.0 g of copper sulfate pentahydrate, and 20 ml of n-tridecane. The reactants were reacted with heating at 230° C. for 1 hour under an atmosphere of nitrogen. After the reaction, the reaction mixture was cooled to room temperature and then dissolved into 50 ml of toluene. Insolubles were filtered off, and the filtrate was purified by silica gel column chromatography using toluene. As a result, 19.6 g of N,N'-diphenyl-N,N'-bis[3-(2-ethoxycarbonylethyl)phenyl]-[1,1'-biphenyl]-4,4'-diamine was obtained as an oily substance. An IR spectrum of this compound is shown in FIG. 1.

reactant | N,N'-diphenylbenzidine | 10.77 g | C1(=CC=CC=C1)NC1=CC=C(C=C1)C1=CC=C(NC2=CC=CC=C2)C=C1 | C24H20N2
reactant | ethyl 3-iododihydrocinnamate | 23.0 g | IC=1C=C(CCC(=O)OCC)C=CC1 | C11H13IO2
reactant | potassium carbonate | 11.61 g | C([O-])([O-])=O.[K+].[K+]
reactant | n-tridecane | 20 ml | CCCCCCCCCCCCC | C13H28
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
catalyst | copper sulfate pentahydrate | 1.0 g | O.O.O.O.O.S(=O)(=O)([O-])[O-].[Cu+2]
product | N,N'-diphenyl-N,N'-bis[3-(2-ethoxycarbonylethyl)phenyl]-[1,1'-biphenyl]-4,4'-diamine | 19.6 g | C1(=CC=CC=C1)N(C1=CC=C(C=C1)C1=CC=C(C=C1)N(C1=CC(=CC=C1)CCC(=O)OCC)C1=CC=CC=C1)C1=CC(=CC=C1)CCC(=O)OCC | C46H44N2O4
